US07338965B2
The (+/−)-tert-butyl (3R,4R)-3-[(1,1′-biphenyl-4-ylcarbonyl)oxy]-4-(3-{[tert-butyl(dimethyl)silyl]oxy}phenyl)piperidine-1-carboxylate (91 mg, 0.16 mmol) was dissolved in 4 N Hydrogen chloride in dioxanes (3.0 mL). The solution was stirred for 4 H at room temperature and diethylether (10 mL) was added. The solution was kept at room temperature for 16 H and solids formed. The (+/−)-(3R,4R)-4-(3-hydroxyphenyl)piperidin-3-yl 1,1′-biphenyl-4-carboxylate hydrochloride (56 mg, 0.13 mmol) was obtained as a white solid. HRMS m/z 374.1753 (calcd for M+H 374.1751.)

reactant | (+/−)-tert-butyl (3R,4R)-3-[(1,1′-biphenyl-4-ylcarbonyl)oxy]-4-(3-{[tert-butyl(dimethyl)silyl]oxy}phenyl)piperidine-1-carboxylate | 0.16 mmol, 91 mg | C1(=CC=C(C=C1)C(=O)O[C@H]1CN(CC[C@@H]1C1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C35H45NO5Si
reactant | diethylether | 10 mL | C(C)OCC | C4H10O
reactant | Hydrogen chloride | 4 N | Cl | ClH
product | (+/−)-(3R,4R)-4-(3-hydroxyphenyl)piperidin-3-yl 1,1′-biphenyl-4-carboxylate hydrochloride | 0.13 mmol, 56 mg | Cl.C1(=CC=C(C=C1)C(=O)O[C@H]1CNCC[C@@H]1C1=CC(=CC=C1)O)C1=CC=CC=C1 | InChI=1S/C24H23NO3.ClH/c26-21-8-4-7-20(15-21)22-13-14-25-16-23(22)28-24(27)19-11-9-18(10-12-19)17-5-2-1-3-6-17;/h1-12,15,22-23,25-26H,13-14,16H2;1H/t22-,23+;/m1./s1
